US07491720B2
Synthesis of 1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-amine
To a solution of 10 g of 1H-pyrazol-3-amine in 100 ml of N,N-dimethylformamide was added 9.6 g of sodium hydride (60%, in oil) under cooling with ice. The reaction mixture was stirred for 30 minutes, and then 21.3 ml of 2-(trimethylsilyl)ethoxymethyl chloride was added thereto. After stirring the resulting mixture at room temperature for 1 hour, aqueous ammonium chloride was added thereto, and the mixture was extracted with chloroform. The resulting organic layer was washed with water and brine, and then dried over magnesium sulfate. The organic layer was filtered and concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=4/1 to 1/2) to give the title compound.

reactant | 1H-pyrazol-3-amine | 10 g | N1N=C(C=C1)N | C3H5N3
reactant | sodium hydride | 9.6 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 21.3 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-amine | C[Si](CCOCN1N=C(C=C1)N)(C)C | C9H19N3OSi
